US04980509
Preparation of ethyl 6-[(5,8-dimethyl-6-methoxy-2-naphthyl) methylene]-2-naphthylsulfone
A suspension of 0.43 g (1 mmole) of ethyl 6-[(5,8-dimethyl-6-methoxy-2-naphthyl) carbonyl]-2-naphthylsulfone, described in Example XIX, 10 cm3 of glacial acetic acid and 0.65 g of zinc powder (10 mmoles), is heated at reflux with stirring. There is then slowly added 0.85 cm3 (10 mmoles) of 12N HCl and reflux is maintained for 1 hour. There is again added 0.85 cm3 of 12N HCl and the mixture is stirred for 1 hour, while letting the reaction mixture cool. After the addition of 20 cm3 of 12N HCl, it is extracted with ether (3×30 cm3), washed with water, dried on sodium sulfate and evaporated to dryness. The crude yellow solid is rapidly purified by silica 60 gel chromatography (eluant: dichloromethane), followed by recrystallization in a hexane/acetone mixture. After drying, 160 mg of white needles of ethyl 6-[(5,8-dimethyl-6-methoxy- 2-naphthyl) methylene]-2-naphthylsulfone whose melting point is 166° C. are obtained.

reactant | ethyl 6-[(5,8-dimethyl-6-methoxy-2-naphthyl) carbonyl]-2-naphthylsulfone | 1 mmole, 0.43 g | C(C)C1=C(C=CC2=CC(=CC=C12)C(=O)C1=CC2=C(C=C(C(=C2C=C1)C)OC)C)S(=O)(=O)C1=C(C2=CC=C(C=C2C=C1)C(=O)C1=CC2=C(C=C(C(=C2C=C1)C)OC)C)CC | C52H46O6S
reactant | HCl | 10 mmoles, 12N, 0.85 cm3 | Cl | ClH
reactant | HCl | 12N, 0.85 cm3 | Cl | ClH
reactant | HCl | 12N, 20 cm3 | Cl | ClH
catalyst | zinc | 10 mmoles, 0.65 g | [Zn] | Zn
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | ethyl 6-[(5,8-dimethyl-6-methoxy-2-naphthyl) methylene]-2-naphthylsulfone | 160 mg | C(C)C1=C(C=CC=2CC(C=CC12)=CC1=CC2=C(C=C(C(=C2C=C1)C)OC)C)S(=O)(=O)C1=C(C=2C=CC(CC2C=C1)=CC1=CC2=C(C=C(C(=C2C=C1)C)OC)C)CC | C52H50O4S
